US09056859B2
BOC-piperazine (502 mg, 2.69 mmol) was stirred in DCM (10 ml) and added the [3-(1H-tetrazol-1yl)phenyl]acetic acid (500 mg, 2.449 mmol) followed by HOBT (562 mg, 3.67 mmol) and EDC (939 mg, 4.90 mmol). The reaction was stirred at RT for 1 hr. The reaction was then poured into brine/NaHCO3 mixture and extracted with DCM. The organic layer was washed with 1 N HCl then dried over NaSO4, filtered and concentrated. The residue was purified by MPLC with 40 g ISCO Redi-sep column and eluted with 5% MeOH: 95% DCM solvent system to yield tert-butyl 4-{[3-(1H-tetrazol-1yl)phenyl]acetyl}piperazine-1-carboxylate. LC-MS (IE, m/z): 373 [M+1]+; 1H-NMR (500 MHz, CDCl3) δ ppm 9.025 (s, 1H), 7.67 (s, 1H), 7.64 (d, J=8.1 Hz, 1H), 7.58 (t, J=8.8 Hz, 1H), 7.44 (d, J=7.6 Hz, 1H), 3.87 (s, 2H), 3.66 (t, J=5 Hz, 2H), 3.53-3.47 (m, 4H), 1.49 (s, 9H);

reactant | BOC-piperazine | 2.69 mmol, 502 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | [3-(1H-tetrazol-1yl)phenyl]acetic acid | 2.449 mmol, 500 mg | N1(N=NN=C1)C=1C=C(C=CC1)CC(=O)O | C9H8N4O2
reactant | HOBT | 3.67 mmol, 562 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.90 mmol, 939 mg
reactant | brine NaHCO3 | [Cl-].[Na+].O.C(=O)(O)[O-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[3-(1H-tetrazol-1yl)phenyl]acetyl}piperazine-1-carboxylate | N1(N=NN=C1)C=1C=C(C=CC1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N6O3
